US05128356
Ethyl 2-carboxy-3-nitrobenzoate
A solution of 3-nitrophthalic acid (35 g) in ethanol (300 ml) containing conc. sulfuric acid (20 ml) was heated for 24 hours under reflux. The solvent was distilled off, and the residue was poured into ice-water (700 ml), which was extracted with ethyl acetate. The organic layer was washed with water, which was extracted with an aqueous solution of potassium carbonate. The aqueous layer was made acidic with hydrochloric acid, followed by extraction with methylene chloride. The organic layer was washed with water and dried. The solvent was distilled off to give a solid product (29 g, 74%), which was used in the subsequent reaction without purification.

reactant | 3-nitrophthalic acid | 35 g | [N+](=O)([O-])C1=C(C(C(=O)O)=CC=C1)C(=O)O | C8H5NO6
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 300 ml | C(C)O | C2H6O
product | Ethyl 2-carboxy-3-nitrobenzoate | 29 g, 74% | C(=O)(O)C1=C(C(=O)OCC)C=CC=C1[N+](=O)[O-] | C10H9NO6
